US07723329B2
Ethanol (30 mL) and 10% palladium on carbon (0.439 g) were added to a hot solution of toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-propyl ester (0.785 g, 1.41 mmol) in hot, anhydrous THF (40 mL). The reaction mixture was hydrogenated on the Parr apparatus for 2 hours (starting pressure of 43 psi). The reaction mixture was then filtered over Celite and concentrated. It was dried at 75° C. in vacuo for 20 minutes to yield toluene-4-sulfonic acid 3-[4-amino-3-(naphthalene-1-sulfonylmethyl)-phenoxy]-propyl ester as a brown-green semi-solid (0.627 g, 84.4%). Mass Spectrum (+EI, [M+H]+) m/z 526.

reactant | Ethanol | 30 mL | C(C)O | C2H6O
reactant | toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-propyl ester | 1.41 mmol, 0.785 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)CC=1C=C(OC(COS(=O)(=O)C2=CC=C(C=C2)C)C)C=CC1[N+](=O)[O-] | C27H25NO8S2
reactant | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 0.439 g | [Pd] | Pd
product | toluene-4-sulfonic acid 3-[4-amino-3-(naphthalene-1-sulfonylmethyl)-phenoxy]-propyl ester | 0.627 g, 84.4% | NC1=C(C=C(OCCCOS(=O)(=O)C2=CC=C(C=C2)C)C=C1)CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C27H27NO6S2
